US05962479
[2-(4-Chloro-2,6-dimethyl-phenoxy)-6-methyl-3-nitro-pyridin-4-yl]-(1-ethyl-propyl)-amine
To a mixture of (2-chloro-6-methyl-3-nitro-pyridin-4-yl)-(1-ethyl-propyl)-amine (850 mg, 3.30 mmol) and 4-chloro-2,6-dimethylphenol (516 mg, 3.30 mmol) in 25 ml of dry THF was added potassium tert-butoxide (370 mg, 3.30 mmol) and the resulting mixture was stirred at room temperature overnight. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give a yellow solid (1.31 g). The solid was purified through silica gel column chromatography using 6:4 ratio of chloroform:hexane as eluent to give 1.10 g (88%) of the title compound as yellow solid, mp 152-154° C. 1H NMR (CDCl3) δ7.65 (d, 1H), 7.05 (s, 2H), 6.21 (s, 1H), 3.41 (m, 1H), 2.15 (s, 3H), 2.11 (s, 6H), 1.5-1.8 (m, 4H), 0.99 (t, 6H) ppm.

reactant | (2-chloro-6-methyl-3-nitro-pyridin-4-yl)-(1-ethyl-propyl)-amine | 3.30 mmol, 850 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])NC(CC)CC)C | C11H16ClN3O2
reactant | 4-chloro-2,6-dimethylphenol | 3.30 mmol, 516 mg | ClC1=CC(=C(C(=C1)C)O)C | C8H9ClO
reactant | potassium tert-butoxide | 3.30 mmol, 370 mg | CC(C)([O-])C.[K+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | [2-(4-Chloro-2,6-dimethyl-phenoxy)-6-methyl-3-nitro-pyridin-4-yl]-(1-ethyl-propyl)-amine | 1.31 g | ClC1=CC(=C(OC2=NC(=CC(=C2[N+](=O)[O-])NC(CC)CC)C)C(=C1)C)C | C19H24ClN3O3
